US07615562B2
Step C: 3-[5-(2-Methanesulfinyl-pyrimidin-4-yl)-pyridin-2-yl]-1,1-dimethyl-prop-2-ynylamine
1,1-Dimethyl-3-[5-(2-methylsulfanyl-pyrimidin-4-yl)-pyridin-2-yl]-prop-2-ynylamine (500 mg, 1.76 mmol) in acetic acid/DCM (2.6 ml/8.8 ml) was treated at 0° C. with mCPBA (content 70%, 455 mg, 2.64 mmol) for 10 minutes. The reaction mixture was diluted with DCM and washed with 2N-solution of sodium carbonate. The organic phase was dried over sodium sulfate, filtered, evaporated to give the title compound as brownish crystals. Yield: 500 mg (98%).

reactant | 1,1-Dimethyl-3-[5-(2-methylsulfanyl-pyrimidin-4-yl)-pyridin-2-yl]-prop-2-ynylamine | 1.76 mmol, 500 mg | CC(C#CC1=NC=C(C=C1)C1=NC(=NC=C1)SC)(C)N | C15H16N4S
reactant | mCPBA | 2.64 mmol, 455 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | acetic acid DCM | 2.6 ml | C(C)(=O)O.C(Cl)Cl
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-[5-(2-Methanesulfinyl-pyrimidin-4-yl)-pyridin-2-yl]-1,1-dimethyl-prop-2-ynylamine | CS(=O)C1=NC=CC(=N1)C=1C=CC(=NC1)C#CC(C)(C)N | C15H16N4OS
